US04198425
3-Hydroxy-3-methyl-5-(p-benzyloxyphenyl)-5-pentanolide
The product obtained by reducing 2.0 g of 3-hydroxy-3-methyl-4-bromo-5-(p-benzyloxyphenyl)-5-pentanolide with 5.99 g of tri-n-butyltin hydride in 40 ml of anhydrous tetrahydrofuran according to the method described in Example 2 (a), was separated by a thin layer chromatography into two isomers in a total yield of 1.40 g.

reactant | 3-hydroxy-3-methyl-4-bromo-5-(p-benzyloxyphenyl)-5-pentanolide | 2.0 g | OC1(CC(=O)OC(C1Br)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C19H19BrO4
reactant | tri-n-butyltin hydride | 5.99 g | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3-methyl-5-(p-benzyloxyphenyl)-5-pentanolide | OC1(CC(=O)OC(C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C19H20O4
